US07119205B2
4-acetyl-phenoxyacetic acid ethyl ester
To an ambient slurry of p-hydroxyacetophenone (20 g, 147 mmol) and K2CO3 (30.4 g, 220 mmol) in acetone (150 mL) was added ethyl bromoacetate (17.2 mL, 154 mmol). The slurry was stirred for 18 h and was quenched by the addition of H2O (150 mL) and Et2O (75 mL). The layers were separated, and the aqueous was extracted with additional Et2O (3×75 mL). The combined organic layers were dried with anhydrous Na2SO4, filtered, and concentrated under reduced pressure to give an oil that was used without further purification. MS (ESI) m/e 223 (M+H)+; 1H NMR (300 MHz, DMSO-d6) δ ppm 1.22 (t, J=7.12 Hz, 3H), 2.52 (s, 3H), 4.18 (q, J=7.12 Hz, 2H), 4.90 (s, 2H), 7.04 (m, 2H), 7.92 (m, 2H).

reactant | p-hydroxyacetophenone | 147 mmol, 20 g | OC1=CC=C(C=C1)C(C)=O | C8H8O2
reactant | K2CO3 | 220 mmol, 30.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl bromoacetate | 154 mmol, 17.2 mL | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 150 mL | CC(=O)C | C3H6O
product | 4-acetyl-phenoxyacetic acid ethyl ester | C(C)OC(COC1=CC=C(C=C1)C(C)=O)=O | C12H14O4
